US07893267B2
145 mg (0.5 mmol) of 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid was reacted with 280 mg (0.75 mmol) of HBTU and 2-Amino-3-(3,5-difluoro-phenyl)-N-(1H-imidazol-2-yl)-propionamide HCl salt (152 mg, 0.5 mmol) as described in general procedure A. A solid precipitated from the solution and was collected by filtration, washed with H2O and EtOAc, to give 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid [2-(3,5-difluoro-phenyl)-1-(1H-imidazol-2-ylcarbamoyl)-ethyl]-amide (60 mg, 22%). LCMS: 538 (M+1)+.

reactant | 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid | 0.5 mmol, 145 mg | C1=NC(=CC2=CC=CC=C12)C1=NC2=C(N1)C=CC=C2C(=O)O | C17H11N3O2
reactant | HBTU | 0.75 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-Amino-3-(3,5-difluoro-phenyl)-N-(1H-imidazol-2-yl)-propionamide HCl salt | 0.5 mmol, 152 mg | Cl.NC(C(=O)NC=1NC=CN1)CC1=CC(=CC(=C1)F)F
product | 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid [2-(3,5-difluoro-phenyl)-1-(1H-imidazol-2-ylcarbamoyl)-ethyl]-amide | 60 mg, 22% | FC=1C=C(C=C(C1)F)CC(C(NC=1NC=CN1)=O)NC(=O)C1=CC=CC=2NC(=NC21)C=2N=CC1=CC=CC=C1C2 | C29H21F2N7O2
